US07129239B2
Preparation of Intermediate 6-chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine (I-(4A-7)c)
9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-ol I-(4A-7)b (2.49 g, 6.97 mmol) was suspended in 50 ml of toluene. Triethylamine (1.07 ml, 7.68 mmol) was added followed by addition of POCl3 (720 μl, 7.72 mmol) at room temperature. The reaction was warmed to reflux and stirred for 23 hours to give a clear orange solution. After cooling the reaction to room temperature it was concentrated under reduced pressure, diluted with isopropanol (50 ml) and then concentrated further under reduced pressure until copious amount of precipitate came out of solution. The concentrated suspension was cooled in an ice bath and stirred for 2 hours. The precipitate was collected on a sintered glass funnel and rinsed with cold isopropanol to afford, after drying in vacuo, I-(4A-7)c as an off-white solid (2.13 g, 82%): +ESI MS (M+1) 375.1; 1H NMR (400 MHz, DMSO-d6) δ 8.84 (s, 1H), 7.76 (dd, J=7.46, 1.2 Hz, 1H), 7.58–7.40 (m, 7H).

reactant | 9-(4-Chlorophenyl)-8-(2-chlorophenyl)-9H-purin-6-ol | 6.97 mmol, 2.49 g | ClC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1C1=C(C=CC=C1)Cl)O | C17H10Cl2N4O
reactant | Triethylamine | 7.68 mmol, 1.07 ml | C(C)N(CC)CC | C6H15N
reactant | POCl3 | 7.72 mmol, 720 μl | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-9-(4-chlorophenyl)-8-(2-chlorophenyl)-9H-purine | ClC1=C2N=C(N(C2=NC=N1)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C17H9Cl3N4
